US05582764
24.9 g (0.1 mol) of 1-bromo-4-n-pentyl-4-silacyclohexane was dripped into a mixture of 2.5 g (0.11 mol) of magnesium and 300 ml of THF to obtain a Grignard's reagent. This solution was then dripped into a 500 ml THF solution of 0.5 g of triethyl phosphate, 0.1 g of copper (I) iodide and 36.1 g (0.1 mol) of 4-(trans-4-(2-bromoethyl)cyclohexyl)-4'-fluorobiphenyl. After a conventional after treatment, 4-(trans-4-(2-(trans-4-n-pentyl-4-silacyclohexyl)ethyl)cyclohexyl)-4'-fluorobiphenyl was obtained. The silacyclohexane rings of the product were a mixture of trans isomers and cis isomers. They were separated by means of chromatography to obtain 30.5 g (yield 67.6%) of the trans isomer.

reactant | 1-bromo-4-n-pentyl-4-silacyclohexane | 0.1 mol, 24.9 g | BrC1CC[SiH](CC1)CCCCC | C10H21BrSi
reactant | magnesium | 0.11 mol, 2.5 g | [Mg] | Mg
reactant | triethyl phosphate | 0.5 g | P(=O)(OCC)(OCC)OCC | C6H15O4P
reactant | 4-(trans-4-(2-bromoethyl)cyclohexyl)-4'-fluorobiphenyl | 0.1 mol, 36.1 g | BrCC[C@@H]1CC[C@H](CC1)C1=CC=C(C=C1)C1=CC=C(C=C1)F | C20H22BrF
catalyst | copper (I) iodide | 0.1 g | [Cu]I
solvent | THF | 500 ml | C1CCOC1 | C4H8O
solvent | THF | 300 ml | C1CCOC1 | C4H8O
product | 4-(trans-4-(2-(trans-4-n-pentyl-4-silacyclohexyl)ethyl)cyclohexyl)-4'-fluorobiphenyl | yield 67.6% | C(CCCC)[Si@@H]1CC[C@H](CC1)CC[C@@H]1CC[C@H](CC1)C1=CC=C(C=C1)C1=CC=C(C=C1)F | C30H43FSi
